US04859662
8-Fluoro-1,2,3,9-tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one
8-Fluoro-1,2,3,9-tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one (728 mg) in absolute ethanol (30 ml) was added to a suspension of 5% palladium on charcoal (100 mg) in ethanol (30 ml), and the resulting mixture was hydrogenated at room temperature and atmospheric pressure until hydrogen uptake had ceased. The mixture was filtered, and the filtrate was evaporated in vacuo to leave an oil which was purified by FCC eluting with ethanol:ethyl acetate (1:5) to give the title compound (342 mg), m.p. 135°-140°, t.l.c. (ethanol:ethyl acetate, 1:5) Rf 0.175.

reactant | 8-Fluoro-1,2,3,9-tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one | 728 mg | FC=1C=CC=C2C=3C(C(CCC3NC12)=CC=1N=CNC1C)=O | C17H14FN3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 8-Fluoro-1,2,3,9-tetrahydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one | 342 mg | FC=1C=CC=C2C=3C(C(CCC3NC12)CC=1N=CNC1C)=O | C17H16FN3O
